US20010053783A1
3-Methyl-8-nitroquinoline
Sulfuric acid (34 ml, 63.2 g, 645.2 mmol) in water (12 ml) was added to a mixture of arsenic pentoxide (22.26 g, 96.8 mmol) and 2-nitroaniline (22.28 g, 161.3 mmol) and the solids dissolved. The resultant solution was then heated to 100° C. and 2-methyl-2-propene-1,1-diol diacetate (50 g, 290.3 mmol) was added, causing an exothermic reaction which was controlled so as not to exceed 130° C. After the addition of the 2-methyl-2-propene-1,1-diol diacetate, the mixture was heated and stirred at 130° C. for 2 hours. The reaction mixture was then cooled and poured onto ice-water. The resultant mixture was basified with aqueous sodium hydroxide solution (50%) and toluene was then added and the mixture heated to 90° C. for 1 hour. The toluene layer was then decanted off and replaced with more toluene (400 ml). The mixture was then heated and stirred over-night and the toluene decanted. More toluene (400 ml) was then added and the mixture heated and stirred for 2 hours before decanting and combining with the two previous toluene extracts. The combined toluene extracts were dried (MgSO4), filtered and the filtrate evaporated in vacuo to give a dark brown solid. This solid was triturated with diethyl ether, the solid isolated by filtration, pulverised, washed with ether and dried in vacuo at 50° C. for 2 hours to give the solid product.

reactant | Sulfuric acid | 645.2 mmol, 34 ml, 63.2 g | S(O)(O)(=O)=O | H2O4S
reactant | arsenic pentoxide | 96.8 mmol, 22.26 g | O=[As](=O)O[As](=O)=O | As2O5
reactant | 2-nitroaniline | 161.3 mmol, 22.28 g | [N+](=O)([O-])C1=C(N)C=CC=C1 | C6H6N2O2
reactant | 2-methyl-2-propene-1,1-diol diacetate | 290.3 mmol, 50 g | C(C)(=O)OC(C(=C)C)OC(C)=O | C8H12O4
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 12 ml | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 3-Methyl-8-nitroquinoline | CC=1C=NC2=C(C=CC=C2C1)[N+](=O)[O-] | C10H8N2O2
